US05356558
3-Methyl-1-(4'-pentylphenyl)-1-butyne-3-ol (82 g) was dissolved in toluene (900 ml) under nitrogen atmosphere, and then sodium hydride (60% in paraffin liquid; 5.6 g) was added thereto, followed by stirring at 60° C. for 6 hours. The reaction solution was poured into water (500 ml), and extracted with chloroform, followed by washing with water three times. After distilling off toluene and chloroform, the resultant was distilled under reduced pressure (b.p. 85° to 90° C./3 mmHg) to give 4-pentylphenylacetylene (48 g).

reactant | 3-Methyl-1-(4'-pentylphenyl)-1-butyne-3-ol | 82 g | CC(C#CC1=CC=C(C=C1)CCCCC)(C)O | C16H22O
reactant | sodium hydride | 5.6 g | [H-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | toluene | 900 ml | C1(=CC=CC=C1)C | C7H8
product | 4-pentylphenylacetylene | 48 g | C(CCCC)C1=CC=C(C=C1)C#C | C13H16
